US04272507
0.32 g (1 mmole) of 3-(2-chloro-6-methylanilino)-2-thiophenglyoxylic acid ethyl ester and 1 g of sodium boranate are warmed to 80° in 10 ml of dimethylformamide for 2 hours. The mixture is then poured onto water and washed with diethyl ether, and the aqueous phase is acidified and extracted with ethyl acetate. Concentration of the organic phase and column chromatography (silica gel/methylene chloride) give, in the first fraction, 3-(2-chloro-6-methylanilino)-2-thiophenacetic acid ethyl ester.

reactant | 3-(2-chloro-6-methylanilino)-2-thiophenglyoxylic acid ethyl ester | 1 mmole, 0.32 g | C(C)OC(C(=O)C=1SC=CC1NC1=C(C=CC=C1C)Cl)=O | C15H14ClNO3S
reactant | sodium boranate | 1 g | B(=O)[O-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2-chloro-6-methylanilino)-2-thiophenacetic acid ethyl ester | C(C)OC(CC=1SC=CC1NC1=C(C=CC=C1C)Cl)=O | C15H16ClNO2S
